US07595405B2
To a stirred solution of 4′-methyl-5-(5-methyl-tetrazol-1-yl)-biphenyl-3-carboxylic acid methyl ester (1 mmol, 308 mg) in 10 ml of THF was added a solution of LiOH.H2O (5 mmol, 210 mg) in 2 mL of water. The reaction mixture was heated to reflux for 3.5 hours and then cooled to room temperature. Solvent was removed under reduced pressure and the liquid residue was pH adjusted to 2.0 by addition of 2N aqueous HCl solution. The mixture was extracted with ethyl acetate and the combined ethyl acetate layers were dried over anhydrous Na2SO4 and concentrated in vacuo to give 4′-methyl-5-(5-methyl-tetrazol-1-yl)-biphenyl-3-carboxylic acid as white solid (279 mg, 95% yield).

reactant | 4′-methyl-5-(5-methyl-tetrazol-1-yl)-biphenyl-3-carboxylic acid methyl ester | 1 mmol, 308 mg | COC(=O)C=1C=C(C=C(C1)N1N=NN=C1C)C1=CC=C(C=C1)C | C17H16N4O2
reactant | LiOH.H2O | 5 mmol, 210 mg | O[Li].O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 4′-methyl-5-(5-methyl-tetrazol-1-yl)-biphenyl-3-carboxylic acid | 279 mg, 95% yield | CC1=CC=C(C=C1)C1=CC(=CC(=C1)N1N=NN=C1C)C(=O)O | C16H14N4O2
